US05387585
5. 11.6 g of 10-bromoimidazo[1,2-c]quinazoline are stirred in 170 ml of 6N hydrochloric acid at 90° C. for 6.5 h. and then cooled in an ice bath. The reaction solution is poured into 30 ml of 25% aqueous ammonia and 50 g of ice and stirred for 10 min. The crystals are filtered off, washed with water and dried in a vacuum. 9.85 g of 3-bromo-2-(1H-2-imidazolyl)-aniline are obtained. The aqueous phase is saturated with sodium chloride and extracted three times with chloroform. After evaporation of the organic extracts in a vacuum, there are obtained a further 1.52g of 3-bromo-2-(1H-2-imidazolyl)-aniline. The substance can be recrystallized from water. M.p. 164°-165° C.

reactant | 10-bromoimidazo[1,2-c]quinazoline | 11.6 g | BrC=1C=2C=3N(C=NC2C=CC1)C=CN3 | C10H6BrN3
reactant | ammonia | 30 ml | N | H3N
solvent | hydrochloric acid | 6N, 170 ml | Cl | ClH
product | 3-bromo-2-(1H-2-imidazolyl)-aniline | 9.85 g | BrC=1C(=C(N)C=CC1)C=1NC=CN1 | C9H8BrN3
